US06140330
A solution of methyl p-formylbenzoate (12.33 g), malonic acid (16 g) and piperidine (1 ml) in pyridine (100 ml) is refluxed for two hours. The reaction mixture is poured into ice-water, and the precipitated white powder is collected by filtration, and washed with water, and dried to give 4-methoxycarbonyl cinnamic acid (14.7 g).

reactant | methyl p-formylbenzoate | 12.33 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | malonic acid | 16 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-methoxycarbonyl cinnamic acid | 14.7 g | COC(=O)C1=CC=C(C=CC(=O)O)C=C1 | C11H10O4
